US04044015
B. 1-benzylimidazo[1,2-a]pyridinium bromide
To 1.77 g. of imidazo[1,2-a]pyridine in 40 ml. of acetonitrile is added 3.42 g. of α-bromotoluene, and the resulting mixture heated to reflux overnight. The resulting solution is cooled, and the precipitated solids filtered, Recrystallization of the crude product from acetonitrile affords the pure product as a white solid, 2.33 g., m.p. 169°-171° C.

reactant | imidazo[1,2-a]pyridine | N=1C=CN2C1C=CC=C2 | C7H6N2
reactant | α-bromotoluene | BrCC1=CC=CC=C1 | C7H7Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-benzylimidazo[1,2-a]pyridinium bromide | [Br-].C(C1=CC=CC=C1)[N+]=1C=CN2C1C=CC=C2 | InChI=1S/C14H13N2.BrH/c1-2-6-13(7-3-1)12-16-11-10-15-9-5-4-8-14(15)16;/h1-11H,12H2;1H/q+1;/p-1
